US07064215B2
N-{3-[6-(4-Methylpiperazin-1-yl)-1H-benzoimidazol-2-yl]-1H-indazol-4-yl}-methanesulfonamide
3-[6-(4-Methylpiperazin-1-yl)-1H-benzoimidazol-2-yl]-1H-indazol-4-ylamine (1 equivalent), methanesulfonyl chloride (1.1 equivalent), and diisopropylethylamine (2 equivalents) in CH2Cl2 are stirred for 18 hours. The solvent is evaporated, and the resulting residue is purified by preparatory HPLC to provide the title compound.

reactant | 3-[6-(4-Methylpiperazin-1-yl)-1H-benzoimidazol-2-yl]-1H-indazol-4-ylamine | 1 equivalent | CN1CCN(CC1)C=1C=CC2=C(NC(=N2)C2=NNC3=CC=CC(=C23)N)C1 | C19H21N7
reactant | methanesulfonyl chloride | 1.1 equivalent | CS(=O)(=O)Cl | CH3ClO2S
reactant | diisopropylethylamine | 2 equivalents | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-{3-[6-(4-Methylpiperazin-1-yl)-1H-benzoimidazol-2-yl]-1H-indazol-4-yl}-methanesulfonamide | CN1CCN(CC1)C=1C=CC2=C(NC(=N2)C2=NNC3=CC=CC(=C23)NS(=O)(=O)C)C1 | C20H23N7O2S
